US06664271B1
Ethyl 1-(2-thiopheneacetyl)-3-piperidinecarboxylate (256.4 mg; 0.91 mmol) was dissolved in absolute ethanol (5 ml). 1 N sodium hydroxide (10 ml) was added and the mixture was allowed to stir at ambient temperature for approximately 1 hour. It was then poured into 1 N HCl and extracted with dichloromethane. The dichloromethane was dried with magnesium sulfate and then evaporated at ambient temperature under reduced pressure, giving 1-(2-thiopheneacetyl)-3-piperidine carboxylic acid (210.1 mg) as a thick, yellow oil which solidified without further purification. MS m/z (positive ion) 254 (MH+; 100).

reactant | Ethyl 1-(2-thiopheneacetyl)-3-piperidinecarboxylate | 0.91 mmol, 256.4 mg | S1C(=CC=C1)CC(=O)N1CC(CCC1)C(=O)OCC | C14H19NO3S
reactant | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(2-thiopheneacetyl)-3-piperidine carboxylic acid | 210.1 mg | S1C(=CC=C1)CC(=O)N1CC(CCC1)C(=O)O | C12H15NO3S
